US06887869B2
11-hydroxy-12-isobutylsulphanyl-3,8-dimethyl-5,9,15-trioxatetracyclo[11.2.1.02,6.08,10]hexadec-13(16)-ene-4,1 4-dione
2-methyl-1-propanethiol (500 μmol; 54 μl) is added to a solution of dihydromikanolide (100 μmol; 30 mg) and dimethylaminopyridine (10 μmol; 1.2 mg) in acetone (1 ml). The reaction mass is stirred for two hours at ambient temperature then the solvent is evaporated off under reduced pressure. The residue is taken up in ether then the precipitate formed is filtered, washed with ether and dried under vacuum. 25 mg of product is obtained in the form of a white powder.

reactant | 2-methyl-1-propanethiol | 500 μmol, 54 μl | CC(CS)C | C4H10S
reactant | dihydromikanolide | 100 μmol, 30 mg | C[C@@H]1[C@@H]2[C@H](C[C@]3([C@@H](O3)[C@H]4[C@H](O4)C5=C[C@H]2OC5=O)C)OC1=O | C15H16O6
reactant | dimethylaminopyridine | 10 μmol, 1.2 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | 11-hydroxy-12-isobutylsulphanyl-3,8-dimethyl-5,9,15-trioxatetracyclo[11.2.1.02,6.08,10]hexadec-13(16)-ene-4,1 4-dione | 25 mg | OC1C2OC2(CC2OC(C(C2C2OC(C(C1SCC(C)C)=C2)=O)C)=O)C | C19H26O6S
